US06414149B1
Step B: {4-[4-(Pyrrolidine-1-sulfonyl)-piperazin-1-yl]-pyrimidin-2-yl}-methanol
To a solution of 2-methoxymethyl-4-[4-(pyrrolidine-1-sulfonyl)-piperazin-1-yl]-pyrimidine (prepared according to the method of Example 121, Step A, 3.1 g, 9.4 mmol) in dichloromethane (47 mL) was added boron tribromide (1 M in dichloromethane, 19 mL, 18.7 mmol) at 0° C. then stirred at ambient temperature for 2 h. The mixture was washed twice with saturated aqueous sodium bicarbonate, and the organic layer was separated, dried over magnesium sulfate, filtered, and the filtrate was concentrated to give an oil which was crystallized from isopropyl ether to give the title compound as a white solid, 2.43 g (77%). 1H NMR (CDCl3, 300 MHz) δ1.82 (m, 4H), 3.15 (m, 8H), 3.81 (m, 4H), 4.35 (d, 2H), 4.83 (t, 1H), 6.71 (d, 1H), 8.18 (d, 1H); mp: 128-131° C.; MS (CI) 328 (MH+).

reactant | 2-methoxymethyl-4-[4-(pyrrolidine-1-sulfonyl)-piperazin-1-yl]-pyrimidine | COCC1=NC=CC(=N1)N1CCN(CC1)S(=O)(=O)N1CCCC1 | C14H23N5O3S
reactant | boron tribromide | 18.7 mmol, 1 M, 19 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 47 mL | ClCCl | CH2Cl2
product | {4-[4-(Pyrrolidine-1-sulfonyl)-piperazin-1-yl]-pyrimidin-2-yl}-methanol | N1(CCCC1)S(=O)(=O)N1CCN(CC1)C1=NC(=NC=C1)CO | C13H21N5O3S
